US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (327 mg, 1.63 mmol) was added to N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)isobutyramide (140 mg) in n-BuOH (3 mL), and the reaction was stirred at 160° C. for 24 hours in a sealed tube. The reaction was concentrated to dryness. Then the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 10-90% gradient CH3CN/water gradient; CV) to yield (R)-tert-butyl 1-(5-bromo-3-isobutyramido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3ylcarbamate (105 mg, 47% yield) as a solid.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 1.63 mmol, 327 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)isobutyramide | 140 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)C)=O)F | C11H11BrFN3O
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-isobutyramido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3ylcarbamate | 105 mg, 47% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H30BrN5O3
